US07488823B2
Step I: [6-(3-Amino-propoxy)-7-methoxy-quinazolin-4-yl]-[3-chloro-4-(pyridin-2-ylmethoxy)-phenyl]-amine
TFA (3 mL) was added drop wise to a suspension of (3-{4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-methoxy-quinazolin-6-yloxy}-propyl)-carbamic acid tert-butyl ester (0.9 g, 1.59 mmol) in DCM (3 mL). Stir for 1 hour and the reaction mixture was diluted with DCM (20 ml) and sat. NaHCO3 (20 mL). Phases were separated and organic layer was extracted with DCM (20 mL). Organic layers were combined, dried (Na2SO4), and concentrated to give 0.7 g (95%) of desired product.

reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (3-{4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-methoxy-quinazolin-6-yloxy}-propyl)-carbamic acid tert-butyl ester | 1.59 mmol, 0.9 g | C(C)(C)(C)OC(NCCCOC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl)=O | C29H32ClN5O5
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
product | [6-(3-Amino-propoxy)-7-methoxy-quinazolin-4-yl]-[3-chloro-4-(pyridin-2-ylmethoxy)-phenyl]-amine | 0.7 g, 95% | NCCCOC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl | C24H24ClN5O3
